US08003783B2
Sulfamic acid 16-benzylidene-17-hydroxy-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester (CAB01152, STX315).
Sodium borohydride (100 mg, 2.64 mmol) was added to a solution of sulfamic acid 16-benzylidene-13-methyl-17-oxo-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester (438 mg, 1.0 mmol, CAB01148) in THF (20 ml) and ethanol (20 ml) at 0° C. The mixture was stirred for 1 h at this temperature (TLC-control) and ethyl acetate (100 ml) and water (50 ml) were added. The organic layer was separated and washed with water (50 ml) and brine (50 ml), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in a small amount of ethyl acetate and precipitated by addition of diethyl ether. Yield: 440 mg (quant.) white powder. 1H-NMR (CDCl3, 400 MHz), δ: 0.67 (s, 3H), 1.36-1.62 (m, 6H), 2.00-2.10 (m, 2H), 2.22-2.41 (m, 3H), 2.78 (dd, J=17.4, 7.2 Hz, 1H), 2.90-2.96 (m, 2H), 4.15 (d, J=9.4 Hz, 1H, H-17), 4.86 (s, 2H, —NH2), 6.55 (d, J=2.3 Hz, 1H), 7.06 (d, J=2.3 Hz, 1H), 7.10 (dd, J=8.2, 2.3 Hz, 1H), 7.19-7.42 (m, 6H). LRMS (FAB+): 439.2 (100, [M]+).

reactant | Sodium borohydride | 2.64 mmol, 100 mg | [BH4-].[Na+]
reactant | sulfamic acid 16-benzylidene-13-methyl-17-oxo-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester | 1.0 mmol, 438 mg | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1=O)C)OS(N)(=O)=O | C25H27NO4S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Sulfamic acid 16-benzylidene-17-hydroxy-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1O)C)OS(N)(=O)=O | C25H29NO4S
